US06515011B2
To a solution of 3-methylbut-1-yne (0.5 g, 0.73 mmol), in dry THF (12 mL) was added dropwise at 0° C. a solution of n-butyllithium in hexane (1.6 N solution, 4.57 mL, 0.73 mmol). After being stirred for 0.25 h at 0° C., the solution was cooled at −78° C. and transferred dropwise by cannulation into a solution of ethyl pyruvate (0.80 mL, 0.73 mmol) in dry THF (12 mL) at −78° C. The resulting solution was stirred at −78° C. for 0.5 hr and quenched by the addition of saturated aqueous NH4Cl (10 mL). The mixture was extracted twice with Et2O (100 mL). The combined organic layers were washed with brine, dried over anhydrous MgSO4, and filtered. The filtrate solvent was removed on a rotary evaporator to give ethyl 2-hydroxy-2,5-dimethyl-3-hexynoate as a clear oil (0.85 g, 63%). LC-MS M+H=185. 1H NMR, 400 MHz, CDCl3, 4.26-4.32 ppm (m, 2H); 3.38 ppm (s, 1H); 2.53-2.58 ppm (m, 1H); 1.63 ppm (s, 3H); 1.32 ppm (t, J=7.14 Hz, 3H); and 1.15 ppm (d, J=6.96 Hz 6H).

reactant | 3-methylbut-1-yne | 0.73 mmol, 0.5 g | CC(C#C)C | C5H8
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.73 mmol, 1.6 N, 4.57 mL | CCCCCC | C6H14
reactant | ethyl pyruvate | 0.73 mmol, 0.80 mL | C(C(=O)C)(=O)OCC | C5H8O3
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | ethyl 2-hydroxy-2,5-dimethyl-3-hexynoate | 0.85 g, 63% | OC(C(=O)OCC)(C#CC(C)C)C | C10H16O3
